US08802844B2
Ethyl 3-methyl-4-oxo-4,7-dihydroisothiazolo[5,4-b]pyridine-5-carboxylate (18 g, 75.55 mmol) was suspended in 2 N NaOH (100 mL) and the mixture was heated at reflux for 3 h. After hydrolysis was complete, the reaction was filtered to yield a dark brown solid. The solid was washed with water (100 mL) and acetone (50 mL), then air dried to provide 3-methyl-4-oxo-4,7-dihydroisothiazolo[5,4-b]pyridine-5-carboxylic acid as a dark brown powder (15 g, 79% yield). LC/MS m/z 210.8 [M+H]+, retention time 0.67 min (RP-C18, 10-99% CH3CN/0.05% TFA over 3 min). 1H NMR (400 MHz, DMSO-d6) δ 8.92 (s, 1H), 2.75 (s, 3H).

reactant | Ethyl 3-methyl-4-oxo-4,7-dihydroisothiazolo[5,4-b]pyridine-5-carboxylate | 75.55 mmol, 18 g | CC1=NSC=2NC=C(C(C21)=O)C(=O)OCC | C10H10N2O3S
solvent | NaOH | 2 N, 100 mL | [OH-].[Na+]
product | 3-methyl-4-oxo-4,7-dihydroisothiazolo[5,4-b]pyridine-5-carboxylic acid | 15 g, 79% yield | CC1=NSC=2NC=C(C(C21)=O)C(=O)O | C8H6N2O3S
